US06573289B1
Production of 1-(1H-Imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)-2-methyl-1-propanol
(6-Methoxynaphthalen-2-yl)-(1-trityl-1H-imidazol-4-yl)ketone (15.0 g) was dissolved in THF (80 ml). To the solution was added 90% formic acid (20 ml), and the mixture was stirred at 50° C. for 2 h. After removal of the solvents by evaporation, 1N-hydrochloric acid (60 ml) was added and the precipitate was filtered off. The filtrate was washed with ether, and neutralized with potassium carbonate. The resulting precipitate was collected by filtration, dried under reduced pressure to give the titled compound (7.54 g) as a colorless solid.

reactant | (6-Methoxynaphthalen-2-yl)-(1-trityl-1H-imidazol-4-yl)ketone | 15.0 g | COC=1C=C2C=CC(=CC2=CC1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H26N2O2
reactant | formic acid | 20 ml | C(=O)O | CH2O2
reactant | THF | 80 ml | C1CCOC1 | C4H8O
product | 1-(1H-Imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)-2-methyl-1-propanol | 7.54 g | N1C=NC(=C1)C(C(C)C)(O)C1=CC2=CC=C(C=C2C=C1)OC | C18H20N2O2
